Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
___ female with history of remote cholecystecomy was admitted 
from the ED with likely cholangitis. 

She reports recurrent abdominal pain since ___. She describes 
her pain as the following: dull in character, recurrent, lasting 
anywhere from 30 minutes to ___ hours, and associated with 
nausea and occasional shaking chills. Then on the morning of 
presentation, she developed acute worsening of her epigastric 
pain and associated shaking chills. Additional review of systems 
is notable for nausea, vomiting, and loose stools x 1. She was 
initially seen at an OSH where she was febrile to 102.4. OSH RUQ 
US demonstrated common bile duct dilatation. She received levo 
and vanco and was then transferred here for ERCP evaluation. 
Recent procedures include colonoscopy, EGD, and CT Abdomen 
within the last ___ weeks which demonstrated condyloma 
acuminatum, ovarian cyst, and tiny renal cysts.  

Upon arrival to the ED, temp 99, HR 95, BP 106/68, RR 16, and 
pulse ox 95% on room air. Exam was notable for RUQ tenderness. 
Labs were notable for transaminitis with ALT 641, AST 789, Alk 
Phos 180, and WBC 10.2. RUQ US demonstrated minimal distal 
common bile duct prominence. She received zofran 2mg IV x 1, 
dilaudid 1mg IV x 1, and flagyl. She was evaluated by ERCP and 
surgery who recommended ERCP in the AM.

Review of systems:  
(+) Per HPI.  Abdominal Pain, nausea, fever
(-) Denies chills, night sweats, weight loss, headache, sinus 
tenderness, rhinorrhea, congestion, cough, shortness of breath, 
chest pain or tightness, palpitations, vomiting, constipation, 
change in bladder habits, dysuria, arthralgias, or myalgias.  
 
Past Medical History:
1. s/p Cholecystectomy
2. GERD
 
Social History:
___
Family History:
Mother - died of heart disease
Father - ___
 
Physical ___:
T 99.7 / BP 109/67 / HR 76 / RR 18 / Pulse ox 98% room air
Gen: no acute distress, resting in bed but somewhat 
uncomfortable appearing
HEENT: Clear OP, MMM
NECK: Supple, No LAD, No JVD
CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
LUNGS: CTA, BS ___, No W/R/C
ABD: + BS, soft, tender to soft / deep palpation in epigastrium 
and RUQ with no rebound or guarding
EXT: No edema. 
SKIN: No lesions
NEURO: A&Ox3. Appropriate. CN ___ intact. ___ strength 
throughout.  Normal coordination. Gait assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
___ - 5:50pm
Na 143 / K 3.7 / Cl 103 / CO2 28 / BUN 9 / Cr 1.1 / BG 107
ALT 641 / AST 789 / Alk Phos 180 / TB .9 
Amylase 37 / Lipase 14
WBC 10.2 / hct 41.2 / Plt 266
N 92 / L 5 / M 2 / E 0 / B 0

MICROBIOLOGY: 
___ Blood Cx pending

STUDIES: 
___ ___ US - preliminary review - s/p cholecystectomy with 
minimal distal common bile duct prominence within normal limtis 
for pt s/p cholecystectomy

OSH LABS: 
___ 
WBC 7.5 / Hct 40 / Plt 223
N 91 / L 5 / M 4 / E 0 / B 0 
LIpase 24
Alk Phos 151 / TB .9 / DB .3 / TP 7.3 / Alb 4.3 / AST 786 / ALT 
449
Na 139 / K 3.6 / Cl 104 / CO2 27 / BUN 8 / Cr .89 / Ca 9.1 / BG 
122
Trop I < .01

OSH MICROBIOLOGY: 

OSH STUDIES: 
___ ECG - sinus tachycardia at ~ 100 bpm, normal axis, no ST 
changes

___ Transabdominal and transvaginal Pelvic ultrasound - 
complex right ovarian cyst. NO evidence of torsion or other 
specific complication. Recommend follow-up evaluation in 6 weeks 
to assess resolution

___ Abdominal US 
1. s/p cholecystectomy with interval dilatation of the common 
bile duct from 5mm to 9mm, nonspecific. Possibility of 
underlying choledocholithiasis is difficult to exclude
2. Small right renal cyst

___ Colonoscopy
1. Mild internal hemorrhoids
2. Few small condylomata found. Biopsy with cold forceps was 
performed for histology
3. Terminal ileum was normal

___ Anus biopsy - fragmented severe anal intraepithelial 
neoplasia arising in a condyloma acuminatum

___ EGD - normal

___ CT Abd/Pelvis with contrast - visualized lung bases 
appear clear; mild intrahepatic ductal dilatation. Common bile 
duct measures 8mm which is not unexpected for a patient who is 
s/p cholecystectomy. tiny hypodnsities in the right kidney which 
are too small to definitely characterize but are likely due to 
cysts; multiloculated cystic structure within the right 
posterior adnexa which measures 7.2cm by 4.9cm
.
ERCP:
Evidence of a previous biliary sphincterotomy that had stenosed 
was noted in the major papilla.  
A periampullary diverticulum was found at the major papilla. 
Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique. Contrast medium was 
injected resulting in complete opacification.  
A single 3-4mm stone that was causing partial obstruction was 
seen at the lower third of the common bile duct. A biliary 
sphincterotomy was performed successfully in the 12 o'clock 
position using a sphincterotome over an existing guidewire.  
The stone and sludge was extracted successfully using a balloon 
catheter. 

 
Brief Hospital Course:
___ yo female with history of cholecystectomy was admitted with 
likely cholangitis. 

1. Cholangitis, Choledocholithiasis with obstruction:  Patient 
was kept NPO with IV fluids.  Her symptoms stabilized and she 
underwent ERCP which showed a 3-4mm stone in the CBD which was 
extracted, with sphincterotomy.  She was initially maintained on 
unasyn.  Her transaminitis improved as did her symptoms.  
Surgery did not feel surgical intervention was necessary.  
Amylase and lipase were normal.  Her diet was advanced 
successfully and she was discharged to complete an additional 5 
day course of Augmentin with close PCP follow up.
.
2. Ovarian Cyst: Patient had evidence of loculated ovarian cyst 
for which 6 week follow-up imaging was recommended. 
 
 
Medications on Admission:
1. Dicylomine prn pain
 
Discharge Medications:
1. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
2. Augmentin 500-125 mg Tablet Sig: One (1) Tablet PO three 
times a day for 5 days.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis/hepatitis
Choledocholithiasis
Gastroesophageal reflux

 
Discharge Condition:
Good, afebrile, hemodynamically stable

 
Discharge Instructions:
You were admitted with abdominal pain and fever, consistent with 
an infection in your biliary system (cholangitis).  You were put 
on antibiotics, and underwent ERCP.  This showed a stone in the 
bile duct that was removed.  Your symptoms and blood work 
improved.  You will be discharged to complete a course of 
antibiotics Augmentin, for 5 more days.
.
Please take all medications as prescribed.  It is very important 
to follow up with your PCP or gastroenterologist as soon as 
possible.
.
Return to the hospital for recurrent abdominal pain, 
fevers/chills, nausea/vomitting, yellowing of skin
 
Followup Instructions:
___